US07319099B2
(d) 1-(4-Cyclopropanesulfonyl-2,3-difluoro-phenyl)-piperazine hydrochloride
To 3.7 mmol 4-(4-Cyclopropanesulfonyl-2,3-difluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester in 100 ml dioxane was added 14.9 mmol HCl (as a 4 M solution in dioxane), and the mixture was heated at 80° C. for 1 h. The mixture was then cooled to room temperature, and the ensuing white crystals were collected by filtration, washing twice with ether, to afford the title compound. MS (m/e): 303.2 (M+H+, 100%)

reactant | 4-(4-Cyclopropanesulfonyl-2,3-difluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 3.7 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=C(C=C1)S(=O)(=O)C1CC1)F)F | C18H24F2N2O4S
reactant | HCl | 14.9 mmol | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-(4-Cyclopropanesulfonyl-2,3-difluoro-phenyl)-piperazine hydrochloride | Cl.C1(CC1)S(=O)(=O)C1=C(C(=C(C=C1)N1CCNCC1)F)F | InChI=1S/C13H16F2N2O2S.ClH/c14-12-10(17-7-5-16-6-8-17)3-4-11(13(12)15)20(18,19)9-1-2-9;/h3-4,9,16H,1-2,5-8H2;1H
